Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___.
 
Chief Complaint:
Acute kidney injury
Recent fevers
Flank pain
Malaise
Nausea
Thrombocytopenia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of GERD who presents with back/flank pain and found to
have ___. He was traveling in ___ recently, and after went
swimming, developed an ear ache.  He went to his PCP ___ ___ who
gave him Keflex ___ PO BID.  He took it regularly the first 2
days, but only took it daily on days ___ because of GERD.  
Later,
he developed pleuritic left-sided chest pain as well as neck
pain. He said that he went to the hospital ___ where he had a
blood test for PE which was negative, was told the pain was
caused by inflammation, and given "Ibuprofen through the IV"
(presumably Toradol).  On ___, he describes pain in his lower
back/right flank.  The pain was ___, burning and sharp, acute,
and accompanied by fever of 101.5. He did not have any urinary
frequency, hematuria, dysuria, cough, URI symptoms, or diarrhea. 

He went to ___ where he had a UA that showed RBCs and
Protein, but CT scan looking for renal stones that was
unrevealing.  His Cr was noted to be 1.2 and presumed to be from
dehydration.  He states that he received "IV Ibuprofen" and was
discharged.  On ___, he noted that the same pain occurred
whenever he urinated, and that in the car, with every bump 
caused
the same pain.  He presented to the ER at ___. 
 
Past Medical History:
GERD
 
Social History:
___
Family History:
No known family history of kidney disease.
 
Physical Exam:
VITALS: Afebrile and vital signs stable
24 HR Data (last updated ___ @ 707)
Temp: 99.2 (Tm 99.2), BP: 136/83 (127-136/81-83), HR: 80 
(79-80),
RR: 18 (___), O2 sat: 97% (96-97), O2 delivery: RA, Wt: 169.75
lb/77 kg  
GENERAL: Pleasant young man seated in hospital room, in no
apparent distress.
EYES: PERRL, EOMI, anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx clear, without visible lesion, erythema or exudate.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD.
PULM: Breathing comfortably on room air. Lungs clear to
auscultation with good air movement bilaterally. No wheezes or
crackles.
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. No HSM appreciated.
GU: No suprapubic fullness or tenderness to palpation.
MSK: R flank tenderness (very mild). Neck supple, moves all
extremities, strength grossly full and symmetric bilaterally in
all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.
PSYCH: Pleasant, appropriate affect.

 
Pertinent Results:
LABS
___ (___): Cr 0.85, BUN 13
___ (___): Cr 1.28, BUN 11
___: Cr 1.4
___: Cr 1.4->1.4

___ 
WBC: 5.7 RBC: 4.75 Hgb: 14.1 Hct: 40.5 MCV: 85 MCH: 29.7 MCHC:
34.8 RDW: 11.6 RDWSD: 35.___* 

___ 
Neuts: 70.9 Lymphs: 18.2* Monos: 9.4 Eos: 1.0 Baso: 0.2 Im ___:
0.3 AbsNeut: 4.06 AbsLymp: 1.04* AbsMono: 0.54 AbsEos: 0.06
AbsBaso: 0.01 

___ 
CK(CPK): 89 
Urine Prot/Cr: 0.4* 

URINE ANALYSES
___ UA (___)- notable for bleed (25), protein (75) 
___ UA- all wnl
___ UA- all wnl

MICRO
___ UCx - negative

IMAGING/STUDIES

___ 21:10   Ctu (Abd/Pel) W/&W/O Contrast
Final Report
In the absence of evidence of obstruction, heterogeneous
enhancement of the bilateral kidneys is nonspecific but could be
infectious or indicate entity such as interstitial nephritis or
parenchymal disease. In conjunction with rising creatinine and
normal urinalysis, NEPHROLOGY consult recommended. 

 
Brief Hospital Course:
# Acute renal dysfunction
# Flank pain
New flank pain and nausea/malaise and found to have new drop in 
renal function (baseline Cr 0.8-0.9, presents with 1.28 [gets 
more NSAID and cephalosporin in ED then] and plateaus at 1.4), 
initial UA with microscopic blood and protein (subsequent UAs 
wnl), and contrast CT showing uncommon bilateral symmetric 
enhancement of the parenchyma (reviewed with radiology) in the 
context of taking (chronically) PPI and (recently) NSAIDs and 
cephalosporin. Most likely he had NSAID-related ___, which 
should normalize within ___ days. AIN is also possible. HE has 
exposure to three major categories of drugs associated with this 
condition, although missing some common features such as 
eosinophilia or eosinophils in the urine (initial UA had RBCs & 
proteins, but no WBCs). Also, patient has been on the PPI for ___ 
years, he has had many exposures to NSIADs (they are his his 
go-to pain reliever and takes an NSAID about once monthly), and 
he has many exposures to penicillin-class antibiotics as a child 
and adult (most recently about ___ years ago). Renal function 
stable at 1.4 since admission. Discussed the facts of the case 
with nephrology. 

At discharge, the plan was:
- Repeat BMP in 1 week
- PCP follow up after
--- If renal function not improving, renal referral
--- If renal function improving but not normal, could repeat BMP 
to
ensure it's truly normalizing
- Hold omeprazole and NSAID use until renal function normalizes 
and talks to his doctor ___ 
- ___ for flank pain as needed
- Avoid other nephrotoxins as possible

# Malaise & Nausea
# Thrombocytopenia
# Fevers (reported)
Although the malaise and nausea could be related to the renal 
injury, along with the fevers and thrombocytopenia, this could 
fit a viral illness picture. Fevers were up to 101.5 F (although 
only reported, none while in the hospital). As long as symptoms 
resolve, no further work-up needed. 

At discharge, the plan was:
- Repeat CBC with diff in 1 week to reassess the 
thrombocytopenia
- PCP follow like above
- Discharged with a prescription for Zofran prn nausea
- Outpatient work-up of symptoms if they don't resolve; any 
initial work-up should include HIV status.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate  
2.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*30 Tablet Refills:*0 
3. HELD- Omeprazole 20 mg PO 3X/WEEK (___)  This medication 
was held. Do not restart Omeprazole until discuss with your 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute kidney injury
Flank pain
Malaise
Nausea
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after having fevers at home and developing 
persistent flank pain, malaise, and nausea. You were found to 
have decreased kidney function.

Your pain and nausea were treated with medicines (acetaminophen 
and anti-nausea meds). Your kidney function is stable.

The cause of your symptoms is not clear. The kidney dysfunction 
is probably most likely due to the non-steroid inflammatory 
drugs (NSAIDs) that you received recently. 

We think you are safe to go home today with the following plan:
1. Take Tylenol for the flank pain as needed
2. Have your primary care doctor set you up for a repeat BMP 
("basic metabolic panel") and CBC with diff ("complete cell 
count with differential") in 1 week
3. Have an appointment with the primary care doctor soon after 
the labs are done.
4. If your renal function is not improving, ask your primary 
care doctor for ___ referral to the kidney doctor clinic and have 
a repeat BMP 1 week. The CBC is to check that your platelets and 
other cell counts become normal.
5. If renal function is normal, there is no need for more labs.
6. If your renal function is improving but not normal, you could 
repeat the BMP in 1 week to ensure it's fully normalizing.
7 Please avoid taking your omeprazole or taking NSAIDs until 
your renal function normalizes and you discuss restarting them 
with your doctor. 
 
Followup Instructions:
___